US07956064B2
In a closed vessel, Methyl 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylate (44 mg, 0.170 mmol) was suspended in concentrated aqueous ammonia (1 ml). The mixture was stirred at 100° C. overnight. Aqueous 1N NaOH was added and the mixture stirred at room temperature for 2 hours. The solid was filtered and dried to provide 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxamide as a brown solid (13 mg, 32% yield). LCMS (ES): 95% pure, m/z 245 [M+1]+.

reactant | Methyl 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxylate | 0.170 mmol, 44 mg | O=C1NC=2C=C(C=CC2C2=C1C=CS2)C(=O)OC | C13H9NO3S
reactant | NaOH | 1N | [OH-].[Na+]
reactant | ammonia | 1 ml | N | H3N
product | 4-oxo-4,5-dihydrothieno[3,2-c]quinoline-7-carboxamide | 13 mg, 32% yield | O=C1NC=2C=C(C=CC2C2=C1C=CS2)C(=O)N | C12H8N2O2S
